US06875885B2
Preparation of (+) enantiomer of cis-Z 3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethyl-cyclopropane carboxylic acid
(+) Methyl 3-(2,2-dichloro-3,3,3-trifluoropropyl)-2,2-dimethyl-cyclopropane carboxylate cyclopropanecarboxylic (9.1 gm) was dissolved in methanolic potassium hydroxide (3.44 gm @100%) and heated to 60° C. in a clean dry 25 ml flask fitted with condenser, thermometer, nitrogen purge and magnetic stirrer. Heat was applied from an external oil bath. After 1 hour on temperature sodium carbonate (1.59 gm) was charged followed by ethanol (10 ml) and the reaction temperature increased to 90° C. and held for 8 hours to complete as judged by GLC. The product was obtained by topping off the solvent from the reaction, adding water (50 ml) and concentrated hydrochloric acid to adjust the pH to <2, followed by dichloromethane (50 ml). After separation a second similar dichloromethane wash of the aqueous phase was applied, separated and combined with the first wash. The combined organic layer was washed with water, brine and then topped to give a yellow paste (5.83 gm). The product obtained was analysed by HPLC, GCMS and NMR to confirm the material was consistent with that of structure (IIIa). HPLC revealed that the product was a mixture of Cis and Trans isomers in the ratio of ˜85:15 respectively.

reactant | (+) Methyl 3-(2,2-dichloro-3,3,3-trifluoropropyl)-2,2-dimethyl-cyclopropane carboxylate | 9.1 gm | ClC(CC1C(C1C(=O)OC)(C)C)(C(F)(F)F)Cl | C10H13Cl2F3O2
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | potassium hydroxide | 3.44 gm | [OH-].[K+]
product | cis-Z 3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethyl-cyclopropane carboxylic acid | Cl\C(=C/[C@H]1C([C@H]1C(=O)O)(C)C)\C(F)(F)F | C9H10ClF3O2
